US04880775
Reaction of 4-(1,1-dimethylpropyl)-2-(1-methylethyl)-5-methylphenol (22.02 g, 0.1 mol), which may be prepared as described by W. Koenigs and R. W. Carl, Chem. Ber., (1981) 25, 3892-3903, 40% formaldehyde solution (70 mL, 0.93 mol), p-dioxane (150 mL) and sulfuric acid (10 mL) according to the procedure described in Example 2, provided after chromatography and short-path distillation, 9.18 g (35% yield) of 6-(1,1-dimethylpropyl)-5-methyl-8-(1-methylethyl)-4H-1,3-benzodioxin (GLC purity 98%); 1H-NMR (CDCl3)δ 0.70 (3H, t, J=7 HZ), 1.20 (6H, d, J=7 Hz), 1.35 (6H, s), 1.78 (2H, q, J=7 Hz), 2.15(3H, s), 3.0-3.5 (1H, m), 4.80 (2H, s), 5.17(2H, s), 7.03 (1H, s); IR (film) νmax 2950, 1575, 1470 cm-1 ; MS m/e 262, 233, 217, 203, 175, 161; UVλmax (ethanol) 226 nm (ε=5530), 283 nm (ε=1520).

reactant | 4-(1,1-dimethylpropyl)-2-(1-methylethyl)-5-methylphenol | 0.1 mol, 22.02 g | CC(CC)(C)C1=CC(=C(C=C1C)O)C(C)C | C15H24O
reactant | formaldehyde | 0.93 mol, 70 mL | C=O | CH2O
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | p-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 6-(1,1-dimethylpropyl)-5-methyl-8-(1-methylethyl)-4H-1,3-benzodioxin | 9.18 g, 35% yield | CC(CC)(C)C1=C(C2=C(OCOC2)C(=C1)C(C)C)C | C17H26O2
